US07199243B2
10% Palladium on carbon (180 mg, 10 wt %) was added to a solution of 3-[3-(1-Benzyloxycarbonyl-1-methyl-ethoxy)-phenyl]-piperidine-1-carboxylic acid 4-isopropyl-phenyl ester (1.76 g, 3.41 mmol) in methanol (15 mL) and the resulting mixture hydrogenated at atmospheric pressure for 3 h. The reaction mixture was filtered through a plug of celite and the celite plug washed thoroughly with ethyl acetate. The combined filtrates were concentrated under reduced pressure to provide 1.26 g (87%) of: 3-[3-(1-Carboxy-1-methyl-ethoxy)-phenyl]-piperidine-1-carboxylic acid 4-isopropyl-phenyl ester as a clear oil.

reactant | 3-[3-(1-Benzyloxycarbonyl-1-methyl-ethoxy)-phenyl]-piperidine-1-carboxylic acid 4-isopropyl-phenyl ester | 3.41 mmol, 1.76 g | C(C)(C)C1=CC=C(C=C1)OC(=O)N1CC(CCC1)C1=CC(=CC=C1)OC(C)(C)C(=O)OCC1=CC=CC=C1 | C32H37NO5
catalyst | Palladium on carbon | 180 mg | [Pd] | Pd
solvent | methanol | 15 mL | CO | CH4O
product | 3-[3-(1-Carboxy-1-methyl-ethoxy)-phenyl]-piperidine-1-carboxylic acid 4-isopropyl-phenyl ester | C(C)(C)C1=CC=C(C=C1)OC(=O)N1CC(CCC1)C1=CC(=CC=C1)OC(C)(C)C(=O)O | C25H31NO5
